US06858638B2
N-[5-(3,5-Difluorobenzenesulfonylamino)-1H-indazol-3-yl]benzamide can be obtained as described in Example 28 from 0.15 g of N-(3-amino-1H-indazol-5-yl)-3,5-difluorobenzenesulfonamide, 13.5 ml of pyridine and 0.06 ml of benzoyl chloride. 30 mg of N-[5-(3,5-difluorobenzenesulfonylamino)-1H-indazol-3-yl)benzamide are thus obtained in the form of a cream solid melting at 246° C. (analysis C20H14F2N4O3S.1.33H2O % calculated C, 56.08; H, 3.29; F, 8.87; N, 13.08; O, 11.20; S, 7.48. % found C, 56.49; H, 3.38; N, 11.90; S, 6.95).

reactant | N-(3-amino-1H-indazol-5-yl)-3,5-difluorobenzenesulfonamide | 0.15 g | NC1=NNC2=CC=C(C=C12)NS(=O)(=O)C1=CC(=CC(=C1)F)F | C13H10F2N4O2S
reactant | benzoyl chloride | 0.06 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | pyridine | 13.5 ml | N1=CC=CC=C1 | C5H5N
product | N-[5-(3,5-difluorobenzenesulfonylamino)-1H-indazol-3-yl)benzamide | 30 mg | FC=1C=C(C=C(C1)F)S(=O)(=O)NC=1C=C2C(=NNC2=CC1)NC(C1=CC=CC=C1)=O | C20H14F2N4O3S
